US08975400B2
3-(4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(trifluoromethyl)phenoxy)-5-(trifluoromethyl)benzonitrile
Prepared in a manner similar to that described for E1 using sodium hydride (9.37 mg, 0.234 mmol), 3-(4-(hydroxymethyl)-2-(trifluoromethyl)phenoxy)-5-(trifluoromethyl)benzonitrile (56.4 mg, 0.156 mmol) in THF (8 mL) and 7-chloro-1-methyl-2,3-dihydroi-midazo[1,2-c]pyrimidin-5(1H)-one (29 mg, 0.156 mmol).

reactant | sodium hydride | 0.234 mmol, 9.37 mg | [H-].[Na+]
reactant | 3-(4-(hydroxymethyl)-2-(trifluoromethyl)phenoxy)-5-(trifluoromethyl)benzonitrile | 0.156 mmol, 56.4 mg | OCC1=CC(=C(OC=2C=C(C#N)C=C(C2)C(F)(F)F)C=C1)C(F)(F)F | C16H9F6NO2
reactant | 7-chloro-1-methyl-2,3-dihydroi-midazo[1,2-c]pyrimidin-5(1H)-one | 0.156 mmol, 29 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-(4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(trifluoromethyl)phenoxy)-5-(trifluoromethyl)benzonitrile | CN1CCN2C(N=C(C=C21)OCC2=CC(=C(OC=1C=C(C#N)C=C(C1)C(F)(F)F)C=C2)C(F)(F)F)=O | C23H16F6N4O3
